US06482986B1
1-[4-(4,4-Dimethylcyclohex-1-enyl)phenyl]ethanone, Compound VI.1
99.32 g of 1-[4-(1,1-dimethoxyethyl)phenyl]-4,4-dimethylcyclohexanol in 300 ml of dichloromethane, and 151 g of sodium iodide are added to 600 ml of acetonitrile, under an inert atmosphere, and the reaction mixture is heated to 30° C. 102 ml of chlorotrimethylsilane chloride are added, followed, at 65° C., by portionwise addition of a mixture of 300 ml of acetonitrile and 47 ml of acetic acid, and the reaction mixture is stirred for 12 hours at room temperature. The reaction mixture is filtered and extracted with dichloromethane. The residue obtained is purified by chromatography on a column of silica gel, eluting with a 99/1 (v/v) cyclohexane/ethyl acetate mixture.

reactant | 1-[4-(1,1-dimethoxyethyl)phenyl]-4,4-dimethylcyclohexanol | 99.32 g | COC(C)(OC)C1=CC=C(C=C1)C1(CCC(CC1)(C)C)O | C18H28O3
reactant | sodium iodide | 151 g | [I-].[Na+]
reactant | acetonitrile | 600 ml | C(C)#N | C2H3N
reactant | chlorotrimethylsilane chloride | 102 ml | [Cl-].Cl[Si](C)(C)C
reactant | acetonitrile | 300 ml | C(C)#N | C2H3N
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | acetic acid | 47 ml | C(C)(=O)O | C2H4O2
product | 1-[4-(4,4-Dimethylcyclohex-1-enyl)phenyl]ethanone | CC1(CC=C(CC1)C1=CC=C(C=C1)C(C)=O)C | C16H20O
